US04407798
A mixture of 7-[2-ethoxyimino-2-(4-aminopyrimidin-2-yl)acetamido]-3-(3-formamido-1-pyridiniomethyl)-3-cephem-4-carboxylate (syn isomer) (430 mg) and concentrated hydrochloric acid (0.16 ml) in methanol (4.3 ml) was stirred for 2 hours at room temperature. The mixture was adjusted to pH 4 with aqueous sodium bicarbonate and evaporated under reduced pressure. The residue was dissolved in water (50 ml) and subjected to column chromatography on a non ionic adsorption resin "HP-20" (70 ml). After the column was washed with water, the elution was carried out with 25% aqueous methanol. The eluate was evaporated to remove methanol under reduced pressure and lyophilized to give 7-[2-ethoxyimino-2-(4-aminopyrimidin-2-yl)acetamido]-3-(3-amino-1-pyridiniomethyl)-3-cephem-4-carboxylate (syn isomer) (0.22 g), mp 140° to 145° C. (dec.).

reactant | 7-[2-ethoxyimino-2-(4-aminopyrimidin-2-yl)acetamido]-3-(3-formamido-1-pyridiniomethyl)-3-cephem-4-carboxylate | 430 mg | C(C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC(=CC=C2)NC=O)C(=O)[O-])C1=O)C1=NC=CC(=N1)N | C22H22N8O6S
reactant | hydrochloric acid | 0.16 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 4.3 ml | CO | CH4O
product | 7-[2-ethoxyimino-2-(4-aminopyrimidin-2-yl)acetamido]-3-(3-amino-1-pyridiniomethyl)-3-cephem-4-carboxylate | 0.22 g | C(C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC(=CC=C2)N)C(=O)[O-])C1=O)C1=NC=CC(=N1)N | C21H22N8O5S
